US06288091B1
A solution of 2-bromo-4′-nitroacetophenone (4.42 g, 18.1 mmol), N,N,-dimethylthiourea (3.77 g, 36.2 mmol) in isopropanol (60 mL) was heated at reflux for 45 min. The cooled reaction mixture was diluted with EtOAc. The solution was washed with saturated aqueous NaHCO3, H2O and brine, dried (MgSO4) and concentrated under reduced pressure to give N,N-dimethyl-4-(4-nitrophenyl)-2-thiazolamine (2.92 g, 65% yield) as an orange solid: 1H NMR (400 MHz, DMSO-d6) δ8.24 (d, J=8.8 Hz, 2H), 8.11 (d, J=8.8 Hz, 2H), 7.56 (s, 1H), 3.11 (s, 6H); MS (FAB) m/z 250 (MH)+.

reactant | 2-bromo-4′-nitroacetophenone | 18.1 mmol, 4.42 g | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | N,N,-dimethylthiourea | 36.2 mmol, 3.77 g | CN(C(=S)N)C | C3H8N2S
solvent | isopropanol | 60 mL | C(C)(C)O | C3H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N,N-dimethyl-4-(4-nitrophenyl)-2-thiazolamine | 2.92 g, 65% yield | CN(C=1SC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C | C11H11N3O2S
